US08314098B2
Synthesis of N-(3-carboxy-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 39)
There was dissolved, in ethanol (2 mL), trifluoroacetic acid salt of (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (20.3 mg, 0.0377 mM), then 3-carboxy-benzaldehyde (5.7 mg, 0.038 mM) was added to the solution and the mixture was stirred at room temperature for one hour. This reaction liquid was filtered and the resulting solid was washed with methanol to thus give the title compound (14.0 mg, yield: 84%).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0377 mM, 20.3 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)NN | C16H18N6O
reactant | 3-carboxy-benzaldehyde | 0.038 mM, 5.7 mg | C(=O)(O)C=1C=C(C=O)C=CC1 | C8H6O3
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-carboxy-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 14.0 mg, yield: 84% | C(=O)(O)C=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=CC=C3)C=CC1 | C24H22N6O3
